US04474777
130 g (0.27 mol) of (S)-benzyl-[1-[[2-(o-chlorobenzoyl)-4-nitrophenyl]carbamoyl]ethyl]carbamate are dissolved in 350 ml of a 30 to 33 percent solution of hydrogen bromide in glacial acetic acid, the solution is stirred at room temperature for 30 minutes, evaporated, treated with water and extracted three times with ether. The aqueous solution is cooled in ice, neutralized with solid sodium bicarbonate and extracted with methylene chloride. The organic phase is dried over sodium sulphate and evaporated. The residue is treated with 80 ml of glacial acetic acid and 800 ml of toluene, the mixture is heated to boiling under reflux for 20 minutes and then evaporated. The residual oil is taken up in methylene chloride, washed with saturated sodium bicarbonate solution, dried over sodium sulphate and evaporated. The residue is dissolved in 500 ml of benzene, the solution is seeded with racemic 5-(o-chlorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one and left to stand at room temperature overnight. The crystalline material is filtered off and the mother liquor is evaporated. After recrystallization of the residue from ether, there is obtained (S)-5-(o-chlorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one of melting point 200°-202°; [α]25D =+241° (1 percent solution in methylene chloride).

reactant | (S)-benzyl-[1-[[2-(o-chlorobenzoyl)-4-nitrophenyl]carbamoyl]ethyl]carbamate | 0.27 mol, 130 g | C(C1=CC=CC=C1)OC(N[C@@H](C)C(NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)Cl)=O)=O)=O | C24H20ClN3O6
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-5-(o-chlorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | ClC1=C(C=CC=C1)C1=N[C@H](C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C16H12ClN3O3
